US06890947B2
0.28 g (1.0 mmol) rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 5) were reacted with 0.23 g (1.1 mmol) 4-chloromethyl-2-phenyl-thiazole in 5 ml N,N-dimethylformamide in the presence of 0.09 g (2.0 mmol) sodium hydride (55%) in mineral oil) at room temperature for 16 hours. The reaction mixture was then diluted with water and extracted with dichloromethane. The combined organic phases were dried over MgSO4 and evaporated. The residue formed was purified by flash-chromatography (silica gel; eluent: gradient of n-heptane and ethyl acetate) to give 0.38 g (90%) of rac-2-ethoxy-3-[2-methyl-1-(2-phenyl-thiazol-4-ylmethyl)-1H-indol-5-yl]-propionic acid as light brown solid.

reactant | rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester | 1.0 mmol, 0.28 g | C(C)OC(C(CC=1C=C2C=C(NC2=CC1)C)OCC)=O | C16H21NO3
reactant | 4-chloromethyl-2-phenyl-thiazole | 1.1 mmol, 0.23 g | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | sodium hydride | 2.0 mmol, 0.09 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | rac-2-ethoxy-3-[2-methyl-1-(2-phenyl-thiazol-4-ylmethyl)-1H-indol-5-yl]-propionic acid | 0.38 g, 90% | C(C)OC(C(=O)O)CC=1C=C2C=C(N(C2=CC1)CC=1N=C(SC1)C1=CC=CC=C1)C | C24H24N2O3S
